US07754727B2
C. [2-(3-Methoxy-propoxy)-4-methyl-phenyl]-methanol
To a solution of the title B compound, 2-(3-methoxy-propoxy)-4-methyl-benzaldehyde (3.7 g, 17.41 mmol) in 30 mL of methanol is added portion wise sodium borohydride (1.03 g, 26.12 mmol). The reaction mixture is stirred for 30 min at room temperature. Sodium borohydride (1.03 g, 26.12 mmol) is added and the mixture further stirred overnight to complete the reaction. After addition of H2O, the aqueous layer is extracted twice with ethyl acetate. The combined organic extracts are dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue is purified by flash column chromatography on silica gel (hexane/EtOAc 4/1 to 1/2) to afford the title compound as a colorless oil: TLC, Rf (hexane/AcOEt 2/1)=0.2. Rt (HPLC, Nucleosil C18, 10:90-100:0 CH3CN/H2O+0.1% TFA within 5 min, then 100% CH3CN+0.1% TFA): 4.88 min.

reactant | 2-(3-methoxy-propoxy)-4-methyl-benzaldehyde | 17.41 mmol, 3.7 g | COCCCOC1=C(C=O)C=CC(=C1)C | C12H16O3
reactant | sodium borohydride | 26.12 mmol, 1.03 g | [BH4-].[Na+]
reactant | Sodium borohydride | 26.12 mmol, 1.03 g | [BH4-].[Na+]
reactant | H2O | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | [2-(3-Methoxy-propoxy)-4-methyl-phenyl]-methanol | COCCCOC1=C(C=CC(=C1)C)CO | C12H18O3
